"CS stage resistive noise"
* gnetlist -q -g spice-noqsi -o CSresNoise.net CSresNoise.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE SLiCAP.lib
X1 1 0 out NM18_noise ID={ID} W={W} L={L} IG={IG}
R1 2 1 {R_s}
V1 2 0 V value=0 dc=0 dcvar=0 noise={4*k*T*R_s}
.param R_s=600 W=54.6u L=180n ID=6.15m IG=0
.end
